Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
This is a ___ woman with PMH of ___ disease, 
blindness, hypertension, history of bronchitis and reactive 
airway disease who presents today with several weeks of 
recurrent episodes of shortness of breath, anxiety, and gasping 
for air.
She was in her usual state of health until several weeks ago, 
when she began to have 2 or more episodes per day that her son 
describes as "choking" and she states that she feels like she 
has trouble breathing. When queried about whether there is 
coughing, the son states that the patient was at ___ 
___, and has been evaluated for aspiration; she is on a 
precautionary diet for this already. These episodes are not 
characterized by coughing. Rather, the patient becomes acutely 
short of breath unrelated to any obvious aggravating factor; he 
provides nebs and Maalox and tries to calm her down, and she 
seems to slowly improve over one hour. Of note, the son does 
have videos that show the patient's symptoms. She feels like she 
is in distress, with shortness of breath. She is also had mild 
nausea during the last week and on day of presentation which 
patient states is new. She presented to ___ yesterday 
for this problem; she had an unremarkable EKG by report. Per 
___, the son, they are seeing an outpatient GI specialist as 
well, and she had a CT scan done which showed patency of the 
esophagus and no obstruction that could be causing these 
episodes. H. Pylori negative. There is an outpatient endoscopy 
pending by Dr. ___ at ___ to further evaluate the 
problem that has not yet occurred. However, her son describes 
being concerned about her breathing, and worrying that he does 
not know what to do for her and wanted to rule out cardiac 
causes as well.
To note, she was taking prednisone 10 mg daily at home per her 
son's report.
In the ED, initial VS were:
97.5 84 136/70 22 100% RA
Exam notable for:
elderly, chronically ill, NAD
cor pulm abd unremarkable
resting tremor
moves 4 to cmd
EKG: normal sinus rhythm, rate, normal axis, no ischemic changes
Labs showed:
WBC 9.1
Hgb 10.8
Plt 161
Chem 7 WNL
Trop x 2 negative
lactate 1.2->2.4->1.6
MB 3
ProBNP 27
UA: contaminated

Imaging showed:
CXR:
Lung volume is low. No consolidation, pneumothorax, or pleural 
effusion is identified. Mildly enlarged cardiomediastinal 
silhouette is unchanged. Left humeral deformity is unchanged and 
is likely sequela of old fracture.

IMPRESSION:
No radiographic evidence of pneumonia.
Patient received:
___ 05:38 PO/NG Carbidopa-Levodopa (___) 1.5 TAB
___ 05:38 PO/NG PredniSONE 10 mg
___ 06:45 IVF NS ___ Started by Other Person 
250
___ 08:53 PO/NG Carbidopa-Levodopa (___) 1.5 TAB
___ 08:53 PO/NG Levothyroxine Sodium 25 mcg
___ 08:53 PO Pantoprazole 40 mg
___ 09:02 IH Fluticasone Propionate 110mcg 2 PUFF
___ 10:48 IH Ipratropium Bromide Neb 1 NEB
___ 12:13 PO/NG Carbidopa-Levodopa (___) 1.5 TAB
___ 14:23 IV CefTRIAXone 1 gm
___ 15:53 IVF NS ___
___ 15:56 PO/NG Carbidopa-Levodopa (___) 1.5 TAB
___ 17:13 IH Ipratropium Bromide Neb 1 NEB
___ 19:43 PO/NG Carbidopa-Levodopa (___) 1.5 TAB
___ 19:43 PO/NG Docusate Sodium 100 mg
___ 19:43 PO/NG Atorvastatin 20 mg
___ 19:43 IH Fluticasone Propionate 110mcg 2 PUFF
___ 20:48 PO Pantoprazole 40 mg
___ 20:48 PO/NG Aluminum-Magnesium Hydrox.-Simethicone 30 
mL
___ 20:48 PO/NG LORazepam .25 mg

Transfer VS were:
89 148/83 16 100%2L NC
On arrival to the floor, patient reports she feels improved and 
calm. She was somnolent but arousable and son reported she had 
been like this after the ED gave her lorazepam.

 
Past Medical History:
___ Disease
HTN
Bronchitis 
Bilateral blindness
 
Social History:
___
Family History:
Reviewed and none pertinent to this hospitalization
 
Physical Exam:
==========================
Admission Physical Exam
==========================
VS: 98.6 Axillary 114 / 75 70 20 99 2L
GENERAL: somnolent but arousable and appearing as if she is 
breathing very comfortably.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, some rigidity noted in upper extremities, with 
right hand more contracted than left.
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

========================
Discharge Physical Exam
========================
VITALS: T97.8  BP 99/54 HR 89 RR 18 SpO2 95 ra 
GENERAL: Awake and able to answer questions. Breathing
comfortably.
HEENT: AT/NC, EOMI, anicteric sclera
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, II/VI systolic ejection murmur at RUSB. No
gallops, or rubs
LUNGS: Decreased breath sounds and poor air movement at the
bases. no wheezes, rales, rhonchi.
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, some rigidity noted in upper extremities, with
right hand more contracted than left.
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

 
Pertinent Results:
===============
Admission Labs
===============
___ 02:55AM ___ WBC-9.1 RBC-3.47* Hgb-10.8* Hct-32.7* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-14.6 RDWSD-50.4* Plt ___
___ 02:55AM ___ Neuts-63.5 ___ Monos-9.3 Eos-0.8* 
Baso-0.3 Im ___ AbsNeut-5.79 AbsLymp-2.34 AbsMono-0.85* 
AbsEos-0.07 AbsBaso-0.03
___ 02:55AM ___ Glucose-85 UreaN-19 Creat-0.6 Na-140 
K-4.2 Cl-99 HCO3-28 AnGap-13
___ 04:25AM ___ cTropnT-<0.01
___ 11:20AM ___ CK-MB-3 proBNP-278
___ 11:20AM ___ cTropnT-<0.01
___ 04:48AM ___ Lactate-1.2

=====================
Imaging/Procedures
=====================
___ CXR
FINDINGS:  
Patient's chin obscures visualization of the lung apices.  There 
is no 
visualized consolidation, effusion, or edema.  The 
cardiomediastinal 
silhouette is stable.  Tortuosity of the thoracic aorta is again 
noted.  
Chronic deformity of the proximal left humerus suggests remote 
prior fracture. 
Old healed anterior right rib fractures are also noted.  No 
acute osseous 
abnormalities. 
  
IMPRESSION:   
No acute cardiopulmonary process. 

___ CXR
FINDINGS:  
Lung volume is low.  No consolidation, pneumothorax, or pleural 
effusion is identified.  Mildly enlarged cardiomediastinal 
silhouette is unchanged.  Left humeral deformity is unchanged 
and is likely sequela of old fracture. 
  
IMPRESSION:    
No radiographic evidence of pneumonia. 

___ Video Oropharyngeal swallow study
FINDINGS:  
The study was limited due to the patient's body habitus and 
inability to relax shoulders.  Barium passes freely through the 
oropharynx without evident aspiration.  There was significant 
esophageal retention, which did not resolve with further 
swallowing attempts. 
  
IMPRESSION:  
Significant esophageal retention of barium.  This is likely 
related to severe esophageal dysmotility, if further evaluation 
is desired, a full esophogram can be performed. 
  
___ EGD
Findings:
 
Esophagus:  

 Lumen: A medium size hiatal hernia was seen.  

 Other presbyesophagus throughout the esophagus   

Stomach:  

Mucosa: Diffuse atrophic appearing mucosa of the mucosa with no 
bleeding was noted in the stomach. These findings are compatible 
with likely atrophic gastritis.  

Duodenum: Normal duodenum. 

Impression: 
- Presbyesophagus throughout the esophagus
- Atrophic appearing mucosa in the stomach compatible with 
likely atrophic gastritis 
- Medium hiatal hernia
- Otherwise normal EGD to third part of the duodenum 

==================
Discharge Labs
==================
___ 06:50AM ___ WBC-9.9 RBC-3.76* Hgb-11.7 Hct-35.0 
MCV-93 MCH-31.1 MCHC-33.4 RDW-14.7 RDWSD-50.4* Plt ___
___ 06:50AM ___ Plt ___
___ 06:50AM ___ ___ PTT-47.0* ___
___ 06:50AM ___ Glucose-88 UreaN-24* Creat-1.1 Na-138 
K-4.2 Cl-97 HCO3-26 AnGap-15
 
Brief Hospital Course:
=========
Summary
=========
___ year old female with history of ___ disease, 
bilateral blindness, hypertension, history of bronchitis and 
reactive airway disease brought to the ED by her son with 
several weeks of recurrent episodes of shortness of breath, 
anxiety, and gasping for air. Patient was evaluated with video 
swallow study which showed esophageal dysmotility and esophageal 
retention of barium. Follow-up EGD was done which showed 
presbyesophagus. Patient was monitored with baseline diet of 
ground solids with thin liquids with medications whole with 
pureed solids. She tolerated the diet well and was discharged 
home

========================================
Acute medical/surgical issues addressed
========================================
# Esophageal dysmotility and esophageal retention of barium on
video swallow:
Patient presented with periordic episodes of shortness of breath 
and anxiety. Suspected that symptoms likely caused by esophageal 
reflux causing her to aspirate which exacerbates her reactive 
airway disease. Certainly ___ puts patient at risk for 
swallowing issues at baseline. Outpatient CT scan did not show 
any obvious esophageal obstruction. No current concern for 
infection given no leukocytosis, evidence on CXR of PNA, and pt 
has no fevers, productive cough. Breathing remained stable on 
room air and O2 sats >90%. Both GERD and reactive airway disease 
treatment were optimized at home and this continued here. Video 
swallow ___ revealed significant esophageal retention of 
barium concerning for severe esophageal dysmotility. GI 
consulted and recommended EGD ___ to evaluate for esophageal 
ring or other structural issue that could be causing retention. 
EGD revealed presbyesophagus and atrophic gastritis. Patient was 
advised to adhere to astrict aspiration precautions at home 
including eating more frequent, smaller meals, taking small 
bites and sips, sitting upright for all meals and medication 
administration and remain sitting upright for 1 hour after 
meals. Please eat only if awake, alert, and attentive.

# Reactive Airway Disease
Patient presented with episodes of SOB and anxiety that may 
represent asthma exacerbations from suspected aspirations. 
Breathing remained stable on room air and O2 sats >90%. 
Optimized reactive airway disease treatment is optimized at home 
with fluticasone IH BID, ipratropium bromide neb q6hs, 
levalbuterol neb q6hours, Perforomist IH BID, and prednisone 
10mg PO daily. While admitted patient was treated with duonebs 
q6hrs, advair BID, and prednisone 10mg daily. At discharge, 
patient was restarted on her home medications.

# Uncomplicated bacterial UTI: Patient asymptomatic but with 
floridly positive UA and urine culture growing E. coli. Patient 
was not oriented this AM but also received Ativan in the ED last 
night. Completed Bactrim DS BID (D1: ___. 

# Hypertension: not taking metoprolol as outpatient. Will need 
to verify medication list with son. ___ pressure well 
controlled overnight and SBP 150s now. Not on Metoprolol as was 
stopped at ___ due to hypotension.

# HLD: continued atorvastatin 20 daily

# GERD: continued pantoprazole 40 mg BID. Patient was discharged 
on pantoprazole 40mg PO BID and Maalox 10mL q6hrs PRN

# ___ disease: continued home Carbidopa-Levodopa 1.5 tab 
QID and 1mg at 7pm. Also continued Carbidopa 25mg QAM per son's 
home med list.

===================
Medication Changes
===================
- None

====================
Transitional Issues
====================
[ ] Continue baseline diet of ground solids with thin liquids 
with medications whole with pureed solids
[ ] Patient is currently taking oral prednisone 10mg daily. 
Appears this was started for possible asthma exacerbation but 
was no end date was given. Will discharge on prednisone 10mg 
daily but recommend tapering as outpatient.
[ ] Please ensure patient doing well with aspiration of cautions 
at home in setting of presbyesophagus.
[ ] If patient is not able to tolerate current diet, diet can be 
downgraded to puree solids. If patient is still having problems 
with aspiration, would have discussion with patient and family 
about PEG placement.
[ ] Patient is prescribed carbidopa 25mg BID, however, patient's 
son states her neurologist told him to give only once in the 
morning. Would clarify this with patient's neurologist

#CODE: Full (presumed)
#CONTACT: ___ ___, ___ ___.
Home phone ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Pantoprazole 40 mg PO Q12H 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Levalbuterol Neb 0.63 mg NEB Q6H 
6. Ipratropium Bromide Neb 1 NEB IH Q6H 
7. OxyCODONE (Immediate Release) 2.5 mg PO BID:PRN Pain - 
Moderate 
8. melatonin 3 mg oral QHS 
9. Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation BID 
10. Levothyroxine Sodium 25 mcg PO DAILY 
11. Senna 8.6 mg PO BID 
12. Docusate Sodium 100 mg PO BID 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
indigestion 
15. Atorvastatin 20 mg PO QPM 
16. Carbidopa-Levodopa (___) 1.5 TAB PO QID 
17. PredniSONE 10 mg PO DAILY 
18. carbidopa 25 mg oral BID 
19. Carbidopa-Levodopa (___) 0.5 TAB PO 4PM ONCE DAILY 
20. carbidopa 25 mg oral QAM 

 
Discharge Medications:
1.  Carbidopa-Levodopa (___) 1 TAB PO QPM AT ___  
2.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
indigestion  
3.  Atorvastatin 20 mg PO QPM  
4.  Carbidopa-Levodopa (___) 1.5 TAB PO QID  
5.  carbidopa 25 mg oral QAM  
6.  Docusate Sodium 100 mg PO BID  
7.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
8.  Ipratropium Bromide Neb 1 NEB IH Q6H  
9.  Levalbuterol Neb 0.63 mg NEB Q6H  
10.  Levothyroxine Sodium 25 mcg PO DAILY  
11.  melatonin 3 mg oral QHS  
12.  Multivitamins 1 TAB PO DAILY  
13.  OxyCODONE (Immediate Release) 2.5 mg PO BID:PRN Pain - 
Moderate  
14.  Pantoprazole 40 mg PO Q12H  
15.  Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation 
BID  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17.  PredniSONE 10 mg PO DAILY  
18.  Senna 8.6 mg PO BID  
19.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
==================
Primary Diagnosis
==================
Esophageal dysmotility and esophageal reflux secondary to 
presbyesophagus

===================
Secondary Diagnosis
===================
Reactive Airway Disease
Uncomplicated Bacterial UTI

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You were having episodes of shortness of breath at home and 
were brought in to be evaluated for potential causes of these 
episodes

What was done while I was in the hospital?
  - Your gastroesophageal reflux disease medications were 
reviewed and were felt to be optimized already
  - Your reactive airway disease/asthma medications were 
reviewed and we felt you were on an optimum regimen at home 
already.
  - You had a video swallow study which showed you had trouble 
swallowing foods. We did a follow-up EGD done which showed that 
you have a condition called presbyesophagus, a common condition 
seen in elderly individuals that predisposes you to having 
trouble swallowing and gastroesophageal reflux. 

What should I do when I go home?
  - It is very important that you take your medications as 
prescribed. We will provide you with a list of medications at 
discharge that you should continue to take
  - To prevent choking and aspiration of food, which is likely 
the cause of your episodes of shortness of breath and discomfort 
at home, we recommend:
       - Please eat more frequent, smaller meals and take small 
bites and sips. 
       - Please remember to sit upright for all meals and 
medication administration and remain sitting upright for 1 hour 
after
meals. 
       - Also, please eat only if awake, alert, and attentive
  - Please go to your scheduled appointment with your primary 
doctor.

Best wishes, 
  Your ___ team

 
Followup Instructions:
___